US08835648B2
{1-[4-Chloro-3-(5-methyoxy-1H-benzoimidazol-2-yl)-phenyl]-pyrrolidin-4-yl}-pyrolidin-1-yl-methanone formate
Method F—Step b To a mixture of 2-{2-Chloro-5-[4-(pyrrolidine-1-carbonyl)-piperidin-1-yl]-phenyl}-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester (0.10 g, 0.19 mmol) in 2M HCl in Et2O (2 mL), few drops of dichloromethane and methanol were added to improve the solubility of the starting material. The resulting mixture was stirred overnight at room temperature, Et2O was added (5 mL), the precipitate was filtered off and then purified by PrepHPLC to get 0.03 g of the title compound as hydrochloride salt, with quantitative yield.

reactant | 2-{2-Chloro-5-[4-(pyrrolidine-1-carbonyl)-piperidin-1-yl]-phenyl}-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.19 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)OC)C2=C(C=CC(=C2)N2CCC(CC2)C(=O)N2CCCC2)Cl | C29H35ClN4O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | HCl | 2M | Cl | ClH
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | {1-[4-Chloro-3-(5-methyoxy-1H-benzoimidazol-2-yl)-phenyl]-pyrrolidin-4-yl}-pyrolidin-1-yl-methanone formate | 0.03 g, quantitative yield | C(=O)O.ClC1=C(C=C(C=C1)N1CCC(C1)C(=O)N1CCCC1)C1=NC2=C(N1)C=CC(=C2)OC | InChI=1S/C23H25ClN4O2.CH2O2/c1-30-17-5-7-20-21(13-17)26-22(25-20)18-12-16(4-6-19(18)24)28-11-8-15(14-28)23(29)27-9-2-3-10-27;2-1-3/h4-7,12-13,15H,2-3,8-11,14H2,1H3,(H,25,26);1H,(H,2,3)
